US07691877B2
4-Amino-1-benzyl-6-(2-methoxy-ethyl)-1,3-dihydro-imidazo[4,5-c]pyridine-2-one
1-Benzyl-4-benzylamino-6-(2-methoxy-ethyl)-1,3-dihydro-imidazo[4,5-c]pyridine-2-one (32 mg, 0.082 mmol) was stirred in concentrated sulphuric acid (2 ml) for 30 minutes. Water (5 ml) was added and the mixture added drop-wise to a stirred solution of saturated NaHCO3 to achieve a basic pH. The aqueous was extracted with 2×EtOAc and the combined organics dried and concentrated to afford a yellow solid. The mixture of isomers was separated by column chromatography on silica, eluting with DCM:MeOH, 97:3 with increasing gradient to DCM:MeOH:NH3 95:5:0.5 to afford the title compound as a pale yellow solid, (3.1 mg, 13%)

reactant | 1-Benzyl-4-benzylamino-6-(2-methoxy-ethyl)-1,3-dihydro-imidazo[4,5-c]pyridine-2-one | 0.082 mmol, 32 mg | C(C1=CC=CC=C1)N1C(NC=2C(=NC(=CC21)CCOC)NCC2=CC=CC=C2)=O | C23H24N4O2
reactant | Water | 5 ml | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Amino-1-benzyl-6-(2-methoxy-ethyl)-1,3-dihydro-imidazo[4,5-c]pyridine-2-one | 3.1 mg, 13% | NC1=NC(=CC2=C1NC(N2CC2=CC=CC=C2)=O)CCOC | C16H18N4O2
